US06818774B2
c) 2-[6-(4-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-isobutyramide
A mixture of 2-[6-(4-fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-2-methyl-propionic acid (175 mg, 0.490 mmol) and benzotriazol-1-yloxy-tripyrrolidino-phosphonium hexafluorophosphate (PyBOP, 382 mg, 0.735 mmol) and butanol (99.3 mg, 0.735 mmol) in N,N′-dimethylformamide (6 mL) was stirred at room temperature for 10 min. Ammonium chloride (52.4 mg, 0.979 mmol) was added and the mixture was stirred 2 h. Water was added and the mixture was extracted with ethyl acetate. The organic phase is successively washed with sodium hydrogencarbonate 10% and MCI 0.1M. Drying and evaporation of the solvent left a solid which was recrystallised with ethyl acetate and ether (120 mg, 69%). MS: m/e=357.2-(M+H+).

reactant | 2-[6-(4-fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-2-methyl-propionic acid | 0.490 mmol, 175 mg | FC1=CC=C(COC=2C=C3CCN(C(C3=CC2)=O)C(C(=O)O)(C)C)C=C1 | C20H20FNO4
reactant | benzotriazol-1-yloxy-tripyrrolidino-phosphonium hexafluorophosphate | 0.735 mmol, 382 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | butanol | 0.735 mmol, 99.3 mg | C(CCC)O | C4H10O
reactant | Ammonium chloride | 0.979 mmol, 52.4 mg | [Cl-].[NH4+]
solvent | N,N′-dimethylformamide | 6 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-[6-(4-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-isobutyramide | FC1=CC=C(COC=2C=C3CCN(C(C3=CC2)=O)C(C(=O)N)(C)C)C=C1 | C20H21FN2O3
